US06297266B1
243 mg of ethyl (4-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-phenoxy)-acetate are stirred in 4.3 ml of ethanol and 0.8 ml of 1N NaOH for 4.5 hrs. at RT. For the working up, the mixture is stirred into ethyl acetate/dilute hydrochloric acid, the organic phase is separated, washed with water and sodium chloride solution, dried over sodium sulphate dried and evaporated in a vacuum. Crystallization from ether gives 208 mg of [4-[[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino]-phenoxy]-acetic acid, m.p. 208° C., MS: 427 (M+H)+.

reactant | ethyl (4-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-phenoxy)-acetate | 243 mg | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)NC1=CC=C(OCC(=O)OCC)C=C1)=O | C22H22N4O5S
reactant | NaOH | 1N, 0.8 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 4.3 ml | C(C)O | C2H6O
product | [4-[[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino]-phenoxy]-acetic acid | 208 mg | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)NC1=CC=C(OCC(=O)O)C=C1)=O | C20H18N4O5S
